US06500863B1
N-ethyl-3-amino-6-chloro-2-hydroxybenzenesulfonamide
Following the general hydrogenation procedure outlined in example 15, crude N-ethyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (1.34 g) was reduced with hydrogen and 10% Pd/C (400 mg) to form the desired product (800 mg, 82% for two steps). 1H NMR (MeOD-d4): δ 6.85 (d, 1H), 6.78 (d, 1H), 2.85 (q, 2H), 0.95 (t, 3H).

reactant | N-ethyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 1.34 g | C(C)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C8H9ClN2O5S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | N-ethyl-3-amino-6-chloro-2-hydroxybenzenesulfonamide | 800 mg, 82% | C(C)NS(=O)(=O)C1=C(C(=CC=C1Cl)N)O | C8H11ClN2O3S
